US04377695
8-(2-Oxo-benzoxazolin-3-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 3.0 g. of NaH (80% suspension in mineral oil), 13.5 g. of benzoxazolin-2-one, 200 cc. of DMF, 23.7 g. of 8-bromocaprylic acid ethyl ester and 3.0 g. of NaJ. Eluant in chromatographic purification: hexane/ethyl acetate.

reactant | NaH | [H-].[Na+]
reactant | benzoxazolin-2-one | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | 8-bromocaprylic acid ethyl ester | C(C)OC(CCCCCCCBr)=O | C10H19BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(2-Oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=CC=C2)=O)=O | C16H21NO4
